US08008302B2
Step a) Formation of (5R)-5-((1S)-1-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-3-methylbutyl)-2,2-dimethyl-1,3-dioxolan-4-one
To a cold solution (0° C.) of (2S)-2-[(4R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-4-methylpentanoic acid (prepared according to WO 94/02447 or similarly to Seebach et al., 1990, Org Syntheses, Coll. Vol. III, p 153-159 but starting from diisopropyl (R)-(+)-malate, 150 mg, 0.65 mmol) in anhydrous DCM (3 mL) were added DIEA (115 μL, 0.69 mmol) and fluoro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (190 mg, 0.72 mmol, Aldrich). The reaction mixture was stirred at 0° C. for 40 min. Then a solution of 1-(4-methoxyphenyl)-piperazine (138 mg, 0.72 mmol, Chess) and DIEA (115 μL, 0.69 mmol) in anhydrous DCM (1 mL) was added. The reaction mixture was stirred for 1 hour at RT and then poured on a silica column (30 g, wet with c-Hex/EtOAc 4:1). Purification was performed with a gradient cHex/EtOAc 4:1 to c-Hex/EtOAc 1:1 in 30 min to give 158 mg of a white powder. Recrystallization from iPrOH gave 112 mg (43%) of the title compound as a white powder. HPLC, Rt: 3.02 min (purity: 99.0%). LC/MS, M+(ESI): 405.3. 1H NMR (CD3OD, 300 MHz) δ 7.00 (d, J=9.2 Hz, 2H), 6.89 (d, J=9.2 Hz, 2H), 4.56 (d, J=8.7 Hz, 1H), 3.87 (m, 3H), 3.78 (s, 3H), 3.73 (m, 1H), 3.50 (m, 1H), 3.15-3.00 (m, 4H), 1.93-1.72 (m, 2H), 1.66 (s, 3H), 1.58 (m, 1H), 1.56 (s, 3H), 0.98 (d, J=6.4 Hz, 6H).

reactant | (2S)-2-[(4R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-4-methylpentanoic acid | CC1(OC([C@H](O1)[C@@H](C(=O)O)CC(C)C)=O)C | C11H18O5
reactant | diisopropyl (R)-(+)-malate | C([C@H](O)CC(=O)OC(C)C)(=O)OC(C)C | C10H18O5
reactant | DIEA | 0.69 mmol, 115 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | fluoro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | 0.72 mmol, 190 mg | F[P-](F)(F)(F)(F)F.FC(=[N+](C)C)N(C)C
reactant | 1-(4-methoxyphenyl)-piperazine | 0.72 mmol, 138 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | DIEA | 0.69 mmol, 115 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (5R)-5-((1S)-1-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-3-methylbutyl)-2,2-dimethyl-1,3-dioxolan-4-one | 158 mg | COC1=CC=C(C=C1)N1CCN(CC1)C(=O)[C@@H](CC(C)C)[C@@H]1C(OC(O1)(C)C)=O | C22H32N2O5
